US08084448B2
B. 2-Benzyloxymethyl-2H-pyrazole-3-carbaldehyde
A solution of 1-benzyloxymethyl-1H-pyrazole (4.6 g, 24 mmol) in THF (40 mL) is cooled to −78° C. n-Butyllithium (12 mL, 2.5 M in hexanes, 30 mmol) is added dropwise. After stirring at −78° C. for 30 min, DMF (1.0 mL) is added. The reaction mixture is warmed to RT over 1 h. The mixture is partitioned between aqueous NH4Cl and EtOAc. The organic layer is concentrated to afford the title compound as a yellow oil, which is used directly in the next step: (M+1)+=217.

reactant | 1-benzyloxymethyl-1H-pyrazole | 24 mmol, 4.6 g | C(C1=CC=CC=C1)OCN1N=CC=C1 | C11H12N2O
reactant | n-Butyllithium | 30 mmol, 2.5 M, 12 mL | C(CCC)[Li]
reactant | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-Benzyloxymethyl-2H-pyrazole-3-carbaldehyde | C(C1=CC=CC=C1)OCN1N=CC=C1C=O | C12H12N2O2
